US05068413
1-(Aminomethyl)-cyclohexane-acetic acid hydrochloride
22.3 1 of water and 22.3 1 of concentrated hydrochloric acid are mixed in a T100 reactor and 6.41 kg gabapentin lactam added thereto, while stirring. The clear brown solution formed is subsequently boiled under reflux for six hours at 108° C. and the reaction mixture is left to stand until it has cooled to 28° C.. The white precipitate obtained is again dissolved by the addition of a further 40 l of water. For the removal of still undissolved lactam, the reaction mixture is extracted three times with, in each case, 30 l dichloromethane. The pale yellow aqueous phase is evaporated to dryness in a vacuum evaporator (QVF 100 L), the temperature finally reaching to 80° C. at 133 Pa. The almost dry crystal mass is stirred in 12.8 l acetone and filtered off with suction. It is then washed with 2 l acetone and dried for four hours at 60° C. The yield is about 60% of theory.

reactant | hydrochloric acid | Cl | ClH
reactant | gabapentin lactam | 6.41 kg | C1CCC2(CC1)CC(=O)NC2 | C9H15NO
reactant | water | 40 l | O | H2O
product | 1-(Aminomethyl)-cyclohexane-acetic acid hydrochloride | yield is about 60% | Cl.NCC1(CCCCC1)CC(=O)O | InChI=1S/C9H17NO2.ClH/c10-7-9(6-8(11)12)4-2-1-3-5-9;/h1-7,10H2,(H,11,12);1H
